US07858796B2
(277) 3-{1-[(3,5-dimethyl-4-isoxazolyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide
Following the general procedure in example 267, 5-phenyl-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole-7-carboxamide (32 mg, 0.1 mmol), 3,5-dimethyl-4-isoxazolesulfonyl chloride (22.9 mg, 0.15 mmol) and triethylamine (0.06 mL, 0.3 mmol) were reacted to form the desired product which was purified by Gilson HPLC (CH3CN/Water, 0.1% TFA) (11 mg, 23%).

reactant | 5-phenyl-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole-7-carboxamide | 0.1 mmol, 32 mg | C1(=CC=CC=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C=1CCNCC1 | C20H19N3O
reactant | 3,5-dimethyl-4-isoxazolesulfonyl chloride | 0.15 mmol, 22.9 mg | CC1=NOC(=C1S(=O)(=O)Cl)C | C5H6ClNO3S
reactant | TEA | 0.3 mmol, 0.06 mL | C(C)N(CC)CC | C6H15N
product | 3-{1-[(3,5-dimethyl-4-isoxazolyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide | CC1=NOC(=C1S(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N)C | C25H26N4O4S
